US05670506
1-(5,6-Oxidohexyl)-3,7-dimethylxanthine (CT1541) was synthesized and used as an intermediate for synthesizing CT1517 and CT1595 as described in examples 2 and 3 below. A mixture of 1-bromo-5-hexene (10.7 g, 66 mmol), sodium hydride (1.58 g, 66 mmol), and theobromine (11.9 g, 66 mmol) in dimethylsulfoxide (100 ml) was stirred for 43 hr. The solution was treated with water (200 ml) and then extracted with dichloromethane (3×80 ml). The combined extracts were washed with water (3×100 ml), dried over magnesium sulfate, and then the solvent was evaporated under vacuum to give 1-(5-hexenyl)-3,7-dimethylxanthine (CT1539) (17 g, 98% yield) as a white powder.

reactant | 1-bromo-5-hexene | 66 mmol, 10.7 g | BrCCCCC=C | C6H11Br
reactant | sodium hydride | 66 mmol, 1.58 g | [H-].[Na+]
reactant | theobromine | 66 mmol, 11.9 g | N1C(=O)N(C)C=2N=CN(C)C2C1=O | C7H8N4O2
reactant | water | 200 ml | O | H2O
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 1-(5-hexenyl)-3,7-dimethylxanthine | 17 g, 98% yield | C(CCCC=C)N1C(=O)N(C=2N=CN(C2C1=O)C)C | C13H18N4O2
